US06255305B1
8-Methyl-7-(1-methylcyclobutyl)-6-(1-methyl-1 H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine
The compound was prepared using the procedures described in Example 102, Steps a), b) and c) with 1-methylcyclobutane carboxylic acid (U.S. Pat. No. 4,220,795) and 3,6-dichloro-4-methylpyridazine being used instead of cyclopentane carboxylic acid and 3,6-dichloropyridazine respectively in Step a), and benzoic acid hydrazide being used instead of 2-thiophene carboxylic acid hydrazide in Step b), and (1-methyl-1 H-1,2,4-triazol-3-yl)methanol (prepared using the conditions described in EP-A-421210) being used instead of 2-hydroxymethylpyridine in Step c). Data for the title compound: 1H NMR (360 MHz, CDCl3) δ1.57 (3 H, s), 1.74-1.84 (1 H, m), 2.02-2.14 (1 H, m), 2.20-2.26 (2 H, m), 2.50-2.58 (2 H, m), 2.62 (3 H, s), 3.93 (3 H, s), 5.48 (2 H, s), 7.44-7.54 (3 H, m), 8.04 (1 H, s), 8.49 (2 H, d, J=8 Hz); MS (ES+) m/e 390 [MH]+. Anal. Found C, 64.74; H, 5.92; N, 24.88. C21H23N7O requires C, 64.76; H, 5.95; N, 25.18%.

reactant | 1-methylcyclobutane carboxylic acid | CC1(CCC1)C(=O)O | C6H10O2
reactant | 3,6-dichloro-4-methylpyridazine | ClC=1N=NC(=CC1C)Cl | C5H4Cl2N2
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | benzoic acid hydrazide | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | (1-methyl-1 H-1,2,4-triazol-3-yl)methanol | CN1N=C(N=C1)CO | C4H7N3O
reactant | 2-hydroxymethylpyridine | OCC1=NC=CC=C1 | C6H7NO
product | 8-Methyl-7-(1-methylcyclobutyl)-6-(1-methyl-1 H-1,2,4-triazol-3-ylmethoxy)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | CC=1C=2N(N=C(C1C1(CCC1)C)OCC1=NN(C=N1)C)C(=NN2)C2=CC=CC=C2 | C21H23N7O
